US06627400B1
Synthesis of N6-Benzoyl-8-bromo-5′-O-(4,4′-dimethoxytrityl)-2′-deoxyadenosine (1):
8-Bromo-2′-Deoxyadenosine (7.7 gm. 22.17 mmol) was dried by co-evaporation with dry pyridine and the solid was suspended in 200 ml of dry pyridine followed by the addition of 4,4′-dimethoxytriphenylmethyl chloride (DMT-Cl) (9 gm, 26.6 mmol). After stirring for 4 hrs at RT, TLC on silica gel showed that a new product was formed and some starting material was unreacted. Another amount of DMT-Cl (3 gm) was added and stirred at RT for 2 hrs. When TLC showed that all starting material was converted to new product with higher Rf, the reaction mixture was cooled to 0 C and trimethylchlorosilane (12.042 gm., 14 ml, 110.85 mmol) was added dropwise while cooling and after 40 min. while stirring benzoyl chloride (15.58 gm, 12.88 ml, 110.85 mmol) was similarly added. The reaction was allowed to react at RT over 2 hrs. The reaction was quenched by slow addition of cold water (50 ml), followed by addition of concentrated ammonia (30%, 50 ml). After 30 min. the reaction mixture was evaporated to dryness. The residue was dissolved in water, and the solution was extracted with ethyl acetate three times, the organic layer washed with saturated sodium bicarbonate solution, and then brine. The organic phase was dried over sodium sulphate, evaporated to dryness. The product was purified on a silica column chromatography, to give a yellowish solid product (6.79 gm, 41.6%). The structure of this product was confirmed by H NMR and ES-MS.

reactant | 8-Bromo-2′-Deoxyadenosine | 22.17 mmol, 7.7 gm | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O3
reactant | 4,4′-dimethoxytriphenylmethyl chloride | 26.6 mmol, 9 gm | COC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)Cl | C21H19ClO2
reactant | DMT-Cl | 3 gm | COC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)Cl | C21H19ClO2
reactant | trimethylchlorosilane | 110.85 mmol, 14 ml, 12.042 gm | C[Si](Cl)(C)C | C3H9ClSi
reactant | benzoyl chloride | 110.85 mmol, 12.88 ml, 15.58 gm | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N6-Benzoyl-8-bromo-5′-O-(4,4′-dimethoxytrityl)-2′-deoxyadenosine | 6.79 gm, 41.6% | C(C1=CC=CC=C1)(=O)NC=1C=2N=C(N([C@H]3C[C@H](O)[C@@H](COC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)O3)C2N=CN1)Br | C38H34BrN5O6
